US05866684
525 mg (1.1 mmol) of N2-[(9-fluorenyl)methoxycarbonyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide were dissolved in 20 ml of dichloromethane and 5 ml of piperidine and the mixture was stirred at room temperature for 30 minutes.The mixture was evaporated to dryness and the residue was chromatographed on silica gel using firstly ethyl acetate/petrol (1:1) and then methanol/dichloromethane (1:9) for the elution. Evaporation of the dichloromethane solution gave a gum which was added to a solution of 363 mg (1.03 mmol) of N-[(9-fluorenyl)methoxycarbonyl]-3-methyl-L-leucine, 149mg (1.1 mmol) of hydroxybenzotriazole and 288 mg (1.5 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 15 ml of dichloromethane. The mixture was stirred for 18 hours, then washed with 2Mhydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated to dryness. The residue was chromatographed on silica gel using ethyl acetate/petrol (1:2) for the elution to give 501 mg of N2-[N-[(9-fluorenyl)methoxycarbonyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide as a white foam. MS: m/e 592.3 [M+H]+, 560.3 [M+H-MeOH]+.

reactant | N2-[(9-fluorenyl)methoxycarbonyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide | 1.1 mmol, 525 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC#C)C(OC)OC | C28H34N2O5
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
reactant | N-[(9-fluorenyl)methoxycarbonyl]-3-methyl-L-leucine | 1.03 mmol, 363 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C(C)C)C)C(=O)O | C22H25NO4
reactant | hydroxybenzotriazole | 1.1 mmol, 149mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.5 mmol, 288 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N2-[N-[(9-fluorenyl)methoxycarbonyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide | 501 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC#C)C(OC)OC | C34H45N3O6
